US07855216B2
Step 4: 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A solution of 3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (37.0 g, 96.0 mmol) in CH2Cl2 (500 mL) was cooled to 0-5° C. and treated dropwise with iodine monochloride solution (211 mL, 1M in CH2Cl2). The mixture was allowed to warm and stirring continued for 1 hour. The solution was washed with aqueous sodium thiosulfate solution, dried (MgSO4) and evaporated in vacuo. The resultant residue was triturated with ethyl acetate to give the title compound (21.8 g, 52%) as a yellow solid. LCMS (method B): RT=2.48 min, M+H+=440.

reactant | 3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 96.0 mmol, 37.0 g | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C20H24FN3O2Si
reactant | iodine monochloride | 1M, 211 mL | ICl | ClI
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 21.8 g, 52% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C17H15FIN3O2
